US05561101
3-cyano-4,7-dichloro-3-(4,6-dimethoxy-2-pyrimidinyl)phthalide(Table A, cpd. no. 269)
21.5 g of NaH in oil dispersion are added to 112.75 g of 3-cyano-4,7-dichlorophthalide and 96.7 g of 4,6-dimethoxy-2-methylsulfonyl-pyrimidine. (The hydride is washed with hexane, the hexane removed by suction and the residue covered with DMF and cooled it an ice bath.) The reaction mixture is left to stir overnight at RT and the solution then poured into 3 L of water containing 15 ml of conc. H2SO4 and stirred mechanically until a viscous gum formed around the stirred blade. The water layer is decanted and extracted with 3×400 ml of toluene, the first two extracts added to the gum and the mixture stirred until the gum dissolved. The toluene solution is washed 2×100 ml of water and 1×100 ml of toluene and the combined toluene layers dried over Na2SO4 concentrated to 400 ml and left to stand overnight. The still homogeneous solution is flash-chromatographed over silica gel with toluene (250 ml fraction 5) fractions 5-9 are combined and stripped to give 30 g of the title product m.p. 123°-126° C.

reactant | NaH | 21.5 g | [H-].[Na+]
reactant | 3-cyano-4,7-dichlorophthalide | 112.75 g | C(#N)C1OC(=O)C2=C(C=CC(=C12)Cl)Cl | C9H3Cl2NO2
reactant | 4,6-dimethoxy-2-methylsulfonyl-pyrimidine | 96.7 g | COC1=NC(=NC(=C1)OC)S(=O)(=O)C | C7H10N2O4S
product | 3-cyano-4,7-dichloro-3-(4,6-dimethoxy-2-pyrimidinyl)phthalide | 30 g | C(#N)C1(OC(=O)C2=C(C=CC(=C12)Cl)Cl)C1=NC(=CC(=N1)OC)OC | C15H9Cl2N3O4
